US04775674
A solution of 5-[[2-nitro-5-[3-[(tetrahydro-2H-pyran-2-yl)oxy]propoxy]phenyl]methylene]-2,4-imidazolidinedione (19.14 g, 49 mmol) in dimethylformamide (150 mL) was hydrogenated over 10% palladium on charcoal (2 g) at 55 p.s.i. in a low pressure hydrogenation apparatus. After 23 hours, the mixture was filtered through kieselguhr and concentrated in vacuo. The resultant yellow solid was dissolved in refluxing methanol (300 mL) and iodine (11.74 g, 49 mmol) added portionwise. After 15 minutes, the mixture was concentrated to dryness and the residue diluted with 10% sodium thiosulfate solution and 10% sodium carbonate solution. The solid was filtered off, washed with water and dried in air. Crystallization from aqueous dimethylformamide afforded 1,3-dihydro-7-(3-hydroxypropoxy)-2H-imidazo[4,5-b]quinolin-2-one (4.22 g, 33%), m.p. 343°-345° C. (dec.).

reactant | 5-[[2-nitro-5-[3-[(tetrahydro-2H-pyran-2-yl)oxy]propoxy]phenyl]methylene]-2,4-imidazolidinedione | 49 mmol, 19.14 g | [N+](=O)([O-])C1=C(C=C(C=C1)OCCCOC1OCCCC1)C=C1C(NC(N1)=O)=O | C18H21N3O7
reactant | methanol | 300 mL | CO | CH4O
reactant | iodine | 49 mmol, 11.74 g | II | I2
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 2 g | [Pd] | Pd
product | 1,3-dihydro-7-(3-hydroxypropoxy)-2H-imidazo[4,5-b]quinolin-2-one | 4.22 g, 33% | OCCCOC1=CC=2C=C3C(=NC2C=C1)NC(N3)=O | C13H13N3O3
